US07446102B2
Benzyl{(1S)-4-[(tert-butoxycarbonyl)amino]-1-[({3-[(tert-butoxycarbonyl)amino]-2-hydroxypropyl}amino)carbonyl]butyl}carbamate
Preparation takes place in analogy to Example 79A from 300 mg (0.82 mmol) of N2-[(benzyloxy)carbonyl]-N5-(tert-butoxycarbonyl)-L-ornithine and 202 mg (1.06 mmol) of tert-butyl(3-amino-2-hydroxypropyl)carbamate in 6 ml of dimethylformamide with the addition of 204 mg (1.06 mmol) of EDC and 33 mg (0.25 mmol) of HOBt.

reactant | N2-[(benzyloxy)carbonyl]-N5-(tert-butoxycarbonyl)-L-ornithine | 0.82 mmol, 300 mg | C(C1=CC=CC=C1)OC(=O)N[C@@H](CCCNC(=O)OC(C)(C)C)C(=O)O | C18H26N2O6
reactant | tert-butyl(3-amino-2-hydroxypropyl)carbamate | 1.06 mmol, 202 mg | C(C)(C)(C)OC(NCC(CN)O)=O | C8H18N2O3
reactant | EDC | 1.06 mmol, 204 mg
reactant | HOBt | 0.25 mmol, 33 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
product | Benzyl{(1S)-4-[(tert-butoxycarbonyl)amino]-1-[({3-[(tert-butoxycarbonyl)amino]-2-hydroxypropyl}amino)carbonyl]butyl}carbamate | C(C1=CC=CC=C1)OC(N[C@@H](CCCNC(=O)OC(C)(C)C)C(=O)NCC(CNC(=O)OC(C)(C)C)O)=O | C26H42N4O8
